US07125896B2
b) 4-(Tetrahydrofuran-2-ylmethoxy)-bromobenzene
Prepared by the method of Example 42 (b) using 4-bromophenol and tetrahydrofurfuryl bromide.

reactant | 4-bromophenol | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | tetrahydrofurfuryl bromide | C(C1CCCO1)Br | C5H9BrO
product | 4-(Tetrahydrofuran-2-ylmethoxy)-bromobenzene | O1C(CCC1)COC1=CC=C(C=C1)Br | C11H13BrO2
